US04935431
(g) 3-Methoxy-6-ethoxycarbonylthieno[3,2-b]pyridin-7-(4H)-one
To a refluxing solution of diphenyl ether (250 ml) was added ethyl 2-ethoxycarbonyl-3-(4-methoxy-3-thienylamino)prop-2-enoate (25 g, 0.0836 mol) portionwise. On completion of the addition, refluxing was continued for a further 20 minutes. The reaction mixture was allowed to cool and then diluted with petroleum ether (b.p. 40°-60°) (400 ml) to give a dark brown solid. This was collected by filtration, washed with petroleum-ether (b.p. 40°-60°) (100 ml) and dried. The solid was recrystallized from DMF (30 ml) to give the title compound as a pale purple solid, 12.7 g, m.p. 244°-247°.

reactant | ethyl 2-ethoxycarbonyl-3-(4-methoxy-3-thienylamino)prop-2-enoate | 0.0836 mol, 25 g | C(C)OC(=O)C(C(=O)OCC)=CNC1=CSC=C1OC | C13H17NO5S
solvent | diphenyl ether | 250 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-Methoxy-6-ethoxycarbonylthieno[3,2-b]pyridin-7-(4H)-one | COC1=CSC2=C1NC=C(C2=O)C(=O)OCC | C11H11NO4S
